US08314098B2
(Step 1): 5-Chloro-2-phenyl-7-thiazolidin-3-yl-pyrazolo[1,5-a]pyrimidine
There was dissolved, in 1,4-dioxane (2 mL), 5,7-dichloro-2-phenyl-pyrazolo-[1,5-a]pyrimidine (51.4 mg, 0.195 mM), then thiazolidine (30.7 μL, 0.390 mM) was added to the solution and then the mixture was stirred at room temperature for one hour. The solvent was distilled off from this reaction mixture, the resulting residue was diluted with water and then extracted with ethyl acetate. The resulting extracts were combined, dried over anhydrous sodium sulfate, the solvent was distilled off and the resulting solid was washed with methanol to thus give the title compound (48.5 mg, yield: 78%).

reactant | 5,7-dichloro-2-phenyl-pyrazolo-[1,5-a]pyrimidine | 0.195 mM, 51.4 mg | ClC1=NC=2N(C(=C1)Cl)N=C(C2)C2=CC=CC=C2 | C12H7Cl2N3
reactant | thiazolidine | 0.390 mM, 30.7 μL | S1CNCC1 | C3H7NS
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-Chloro-2-phenyl-7-thiazolidin-3-yl-pyrazolo[1,5-a]pyrimidine | 48.5 mg, yield: 78% | ClC1=NC=2N(C(=C1)N1CSCC1)N=C(C2)C2=CC=CC=C2 | C15H13ClN4S
